US07846959B2
Methyl 2-({4-amino-3-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino]phenyl}carbonyl)benzoate (0.167 g, 0.435 mmol) was dissolved in dichloromethane (1 mL) and treated with trifluoroacetic acid (0.7 mL) for 1.5 h. The mixture was brought to pH˜8 by addition of saturated sodium bicarbonate solution. The aqueous portion was partitioned with ethyl acetate. The organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford an orange foam which was dissolved in N,N-dimethylformamide (1 mL) and treated with methyl isothiocyanatidocarbamate (0.120 mL, 1.026 mmol). After 1 h, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.120 g, 0.625 mmol) was added and the mixture was stirred at 65° C. for 0.5 h. The mixture was partitioned between ethyl acetate and lithium chloride (5% aqueous solution). The organic portion was washed with 0.5 N hydrochloric acid, saturated sodium bicarbonate solution, brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil which was purified by column chromatography (ethyl acetate-hexanes 4:1) to afford methyl 2-[(1-methyl-2-{[(methyloxy)carbonyl]amino}-1H-benzimidazol-6-yl)carbonyl]benzoate as a colorless film (0.049 g, 0.134 mmol, 31% yield). 1H NMR (400 MHz, CDCl3): 11.4 (s, 1H), 8.06 (dd, 1H), 7.81 (d, 1H), 7.65 (td, 1H), 7.57 (td, 1H), 7.42 (dd, 1H), 7.39 (dd, 1H), 7.19 (d, 1H), 3.78 (s, 3H), 3.67 (s, 3H), 3.61 (s, 3H); MS (EI) for C19H17N3O5: 368 (MH+).

reactant | Methyl 2-({4-amino-3-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino]phenyl}carbonyl)benzoate | 0.435 mmol, 0.167 g | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OC)C=CC=C1)N(C)C(=O)OC(C)(C)C | C21H24N2O5
reactant | trifluoroacetic acid | 0.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.625 mmol, 0.120 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | methyl 2-[(1-methyl-2-{[(methyloxy)carbonyl]amino}-1H-benzimidazol-6-yl)carbonyl]benzoate | 31% yield | CN1C(=NC2=C1C=C(C=C2)C(=O)C2=C(C(=O)OC)C=CC=C2)NC(=O)OC | C19H17N3O5
